US07449460B2
A 2.0 g (6.43 mmol) portion of 4-chloro-7-(3-chloropropoxy)-6-methoxy-3-quinolinecarbonitrile (Boschelli, Diane H.; Ye, Fei; Wang, Yanong D.; Dutia, Minu; Johnson, Steve L.; Wu, Biqi; Miller, Karen; Powell, Dennis W.; Yaczko, Deanna; Young, Mairead; Tischler, Mark; Arndt, Kim; Discafani, Carolyn; Etienne, Carlo; Gibbons, Jay; Grod, Janet; Lucas, Judy; Weber, Jennifer M.; Boschelli, Frank. J. Med. Chem. 2001, 44, 3965-3977) in 2-ethoxyethanol (20 mL) is heated to 60° C. To this is added 1.7 g (7.10 mmol) of 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine (U.S. Pat. No. 4,973,599) and 0.74 g (6.43 mmol) of pyridine hydrochloride, and the resulting mixture is refluxed for 2 hours. After cooling, the precipitated solid is filtered, washed with aqueous sodium bicarbonate and dried in vacuo to give 2.93 g of 4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino}-7-(3-chloropropoxy)-6-methoxy-3-quinolinecarbonitrile as a tan solid, mp 271-276° C.

reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCCl)C#N | C14H12Cl2N2O2
reactant | 3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamine | 7.10 mmol, 1.7 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)N | C10H10ClN3S
reactant | pyridine hydrochloride | 6.43 mmol, 0.74 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 20 mL | C(C)OCCO | C4H10O2
product | 4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino}-7-(3-chloropropoxy)-6-methoxy-3-quinolinecarbonitrile | 2.93 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCCCl)C#N)C=CC1SC=1N(C=CN1)C | C24H21Cl2N5O2S
